US08053457B2
(4-Pyrimidin-2-yl-piperazin-1-yl)-acetonitrile
The title compound is synthesized by coupling of 2-piperazin-1-yl-pyrimidine and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a white solid; ES-MS: M+=204.2: 1HNMR(DMSO-d6) 8.35 (d, 2H), 6.60 (t, 1H), 3.80-3.70 (m, 6H), 2.45-2.40 (m, 4H).

reactant | 2-piperazin-1-yl-pyrimidine | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Pyrimidin-2-yl-piperazin-1-yl)-acetonitrile | N1=C(N=CC=C1)N1CCN(CC1)CC#N | C10H13N5
